US08008298B2
1-(3-Bromo-phenyl)-3,3-dimethyl-pyrrolidine-2,5-dione (2.5 g, 8.9 mmol) was suspended in 45 ml of THF. Borane (7.9 ml of a 10.1M solution in methyl sulfide) was added and the reaction was stirred at room temperature for 3 hours. The reaction was cooled to 0° C. in an ice bath and 20 ml of methanol was added dropwise, then 60 ml of water. The mixture was transferred to a separatory funnel and methylene chloride was added. The organic phase was washed with water and brine, filtered through celite and concentrated. The crude product was purified by flash chromatography using a gradient of 0% to 5% ethyl acetate in hexanes to give 1.7 g (75%) of 1-(3-bromo-phenyl)-3,3-dimethyl-pyrrolidine.

reactant | 1-(3-Bromo-phenyl)-3,3-dimethyl-pyrrolidine-2,5-dione | 8.9 mmol, 2.5 g | BrC=1C=C(C=CC1)N1C(C(CC1=O)(C)C)=O | C12H12BrNO2
reactant | Borane | B | BH3
reactant | methanol | 20 ml | CO | CH4O
reactant | water | 60 ml | O | H2O
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | methyl sulfide | CSC | C2H6S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(3-bromo-phenyl)-3,3-dimethyl-pyrrolidine | 1.7 g, 75% | BrC=1C=C(C=CC1)N1CC(CC1)(C)C | C12H16BrN
